* Z:\mnt\design.r\spice\examples\1627.asc
L1 N001 OUT 15µ
R1 N003 0 80.6K
R2 OUT N003 249K
C1 N002 0 .01µ
C2 N004 0 47p
C3 OUT 0 100µ Rser=0.1
V1 IN 0 5
Rload OUT 0 3
XU1 N004 N002 N003 0 N001 IN 0 N005 LTC1627
.tran 10m startup
.lib LTC1627.sub
.backanno
.end
